datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:12]([C:11]([H:14])([H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])[H:5],25.7316
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([S:7][H:14])([C:8](=[S:9])[H:15])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[S:3])[H:13])[H:4].[C:5]([C:6]([S:7][H:14])[C:8](=[S:9])[H:15])([H:10])([H:11])[H:12],63.1784
[C:0]1=[C:1]([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]1([H:12])[H:13]>>[C:0]12=[C:1]([H:7])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])[C:5]1([H:11])[C:6]2([H:12])[H:13],1.2552
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:21]([H:22])([H:23])[H:24])[H:11])([H:9])[H:10],19.4556
[C:1]1([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([C:12]1[C:14]([H:15])=[C:16]([H:17])[C:18]([H:19])=[C:20]1[H:22])[H:23]>>[C:1]1([H:3])[C:4]([H:5])=[C:6]([H:7])[C:8]2([H:9])[C:10]1([H:23])[C:12]21[C:14]([H:15])=[C:16]([H:17])[C:18]([H:19])=[C:20]1[H:22],40.1664
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9](=[C:10]([H:16])[H:17])[H:15])[H:14],59.4965
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[S:14][H:21])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[S:14][H:21],-14.2256
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:30])([H:31])[H:32])[C:21]([O:22][O:23])([H:33])[H:34])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][O:23][O:22][C:21]([C:18]([C:17]([H:24])([H:25])[H:26])([C:19]([H:27])([H:28])[H:29])[C:20]([H:30])([H:31])[H:32])([H:33])[H:34],85.47912
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:5].[H:4][H:10],22.250512
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21])[C:4]([H:8])([H:9])[H:10])[H:5],-16.4431
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:33]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:30][H:33],28.267104
[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22].[O:0]=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8]>>[H:8][C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22].[O:0]=[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],10.29264
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]=[S:16])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])=[S:16],47.2792
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])([H:27])([H:28])[H:29]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]([C:18]([H:27])([H:28])[H:29])([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37],35.1456
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:20])[H:19])([H:17])[H:18])[H:16])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])=[C:7]([H:20])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:12],142.633
